US04556665
A. 1,3-Dihydro-4-methyl-5-[4-(2,4,5-trimethyl-1H-imidazol-1-yl)benzoyl]-2H-imidazol-2-one
In a manner similar to Example IV react 4-(4-fluorobenzoyl)-1,3-dihydro-5-methyl-2H-imidazol-2-one with 2,4,5-trimethyl-1H-imidazole to produce the title compound.

reactant | 4-(4-fluorobenzoyl)-1,3-dihydro-5-methyl-2H-imidazol-2-one | FC1=CC=C(C(=O)C=2NC(NC2C)=O)C=C1 | C11H9FN2O2
reactant | 2,4,5-trimethyl-1H-imidazole | CC=1NC(=C(N1)C)C | C6H10N2
product | 1,3-Dihydro-4-methyl-5-[4-(2,4,5-trimethyl-1H-imidazol-1-yl)benzoyl]-2H-imidazol-2-one | CC=1NC(NC1C(C1=CC=C(C=C1)N1C(=NC(=C1C)C)C)=O)=O | C17H18N4O2
